US04775674
1-[4-[(2,3-Dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]piperidine
This compound, m.p. 215°-217° C., prepared analogous to Example 15 from 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid and piperidine.

reactant | 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid | CN1C(NC2=NC=3C=CC(=CC3C=C21)OCCCC(=O)O)=O | C15H15N3O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-[4-[(2,3-Dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]piperidine | CN1C(NC2=NC=3C=CC(=CC3C=C21)OCCCC(=O)N2CCCCC2)=O | C20H24N4O3
